US06737435B1
(ii) Ethyl-4-chloro-5-methoxyindole-2-carboxylate
A solution of ethyl-2-azido-3-(2-chloro-3-methoxyphenyl)propenoate (2.22 g) in xylene (100 ml) was heated at reflux for 30 minutes, concentrated in vacuo and the residue purified by column chromatography using isohexane-50% ethyl acetate as eluent to give the product as a pale yellow solid (1.34 g, 67%), NMR δ (CDCl3) 1.31 (t, 3H), 3.84 (s, 3H), 4.32 (q, 2H), 7.0 (d, 1H), 7.22 (d, 1H), 7.39 (d, 1H), 12.2 (bs, 1H);

reactant | ethyl-2-azido-3-(2-chloro-3-methoxyphenyl)propenoate | 2.22 g | C(C)OC(C(=CC1=C(C(=CC=C1)OC)Cl)N=[N+]=[N-])=O | C12H12ClN3O3
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl-4-chloro-5-methoxyindole-2-carboxylate | 1.34 g, 67% | C(C)OC(=O)C=1NC2=CC=C(C(=C2C1)Cl)OC | C12H12ClNO3
